US06586429B2
A mixture of (S)-8-acetyl-7,8-dihydro-3-(5-methanesulfonyloxyhexyl)-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione (560 mg, 1.28 mmol) and sodium azide (416 mg, 6.4 mmol) in dimethylsulfoxide (5 ml) was stirred at 65° C. for 7 hours. After cooling to room temperature, the reaction mixture was treated with water. After stirring for 1 hour, the solid was filtered, washed with water, and dried under vacuum to provide (R)-8-acetyl-3-(5-azidohexyl)-7,8-dihydro-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione (395 mg, 84% yield) as a white powder.

reactant | (S)-8-acetyl-7,8-dihydro-3-(5-methanesulfonyloxyhexyl)-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione | 1.28 mmol, 560 mg | C(C)(=O)N1CCN2C1=NC=1N(C(N(C(C21)=O)CCCC[C@H](C)OS(=O)(=O)C)=O)C | C17H25N5O6S
reactant | sodium azide | 6.4 mmol, 416 mg | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
product | (R)-8-acetyl-3-(5-azidohexyl)-7,8-dihydro-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione | 395 mg, 84% yield | C(C)(=O)N1CCN2C1=NC=1N(C(N(C(C21)=O)CCCC[C@@H](C)N=[N+]=[N-])=O)C | C16H22N8O3
